US06660753B2
In a similar fashion, 3-(5-fluoro-2-pyridyl)-5-(3-bromo-5-fluorophenyl)-1,2,4-oxadiazole (60 mg, 0.154 mmol), pyridine-3-boronic acid 1,3-propanediol cyclic ester (50.4 mg, 0.309 mmol), and Pd(PPh3)4 (17.8 mg, 0.015 mmol), in a solution of ethylene glycol dimethyl ether (2 mL) and 2M sodium carbonate (2 mL) was heated in a selaed vial at 100° C. for 1 hour. Standard work up and silica gel chromatography using a gradient of 50% to 70% ethyl acetate in hexane afforded 24.7 mg (48%) of 3-(5-fluoro-2-pyridyl)-5-(3-fluoro-5-(3-pyridyl)phenyl)-1,2,4-oxadiazole: 1H-NMR (CDCl3), δ (ppm): 8.92 (d, 1H), 8.71 (m, 2H), 8.31 (s, 1H), 8.30 (dd, 1H), 8.00 (m, 2H), 7.62 (td, 1H), 7.57 (td, 1H), 7.45 (dd, 1H).

reactant | 3-(5-fluoro-2-pyridyl)-5-(3-bromo-5-fluorophenyl)-1,2,4-oxadiazole | 0.154 mmol, 60 mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)F)Br | C13H6BrF2N3O
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.309 mmol, 50.4 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | ethylene glycol dimethyl ether | 2 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | CCCCCC | C6H14
catalyst | Pd(PPh3)4 | 0.015 mmol, 17.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-fluoro-2-pyridyl)-5-(3-fluoro-5-(3-pyridyl)phenyl)-1,2,4-oxadiazole | 24.7 mg, 48% | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)C=1C=NC=CC1)F | C18H10F2N4O
